US07666888B2
4-{[3-(2-Chlorophenyl)pyrrolidin-1-yl]carbonyl}-5-(4-methylphenyl)isoxazole
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 3-(2-chlorophenyl)pyrrolidine oxalate (16.3 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (2.5 mg). Calcd for C21H19ClN2O2: 366.1135, found 366.1141.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 3-(2-chlorophenyl)pyrrolidine oxalate | 0.060 mmol, 16.3 mg | C(C(=O)O)(=O)O.ClC1=C(C=CC=C1)C1CNCC1
product | 4-{[3-(2-Chlorophenyl)pyrrolidin-1-yl]carbonyl}-5-(4-methylphenyl)isoxazole | ClC1=C(C=CC=C1)C1CN(CC1)C(=O)C=1C=NOC1C1=CC=C(C=C1)C | C21H19ClN2O2
